US06127386
154a. 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-(2-thienyl)pyridine
To a mixture of 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-bromopyridine (0.42 g, 1.2 mmol), tetrakis(triphenylphosphine)palladium(0) (40 mg, 0.034 mmol), sodium carbonate (2.0 M, 2 mL) in toluene (10 mL) was added 2-thienylboronic acid (0.38 g, 3.0 mmol). The reaction mixture was stirred and heated at 80° C. for 16 h. Solvent was evaporated. The residue was chromatographed (silica gel; hexane/EtOAC, 10:1 to 2:1) to afford an oil (0.24 g, 57%): 1H NMR (CDCl3, 300 MHz) δ1.42 (s, 9H), 2.26-2.90 (m, 2H), 3.86-3.94 (m, 2H), 4.20 (m, 1H), 4.39 (m, 1H), 4.55 (m, 1H), 7.12 (m, 1H), 7.36 (s, 1H), 7.44 (s, 1H), 8.26 (s, 1H), 8.50 (s, 1H); MS (CI/NH3) m/z 347 (M+H)+.

reactant | 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-bromopyridine | 1.2 mmol, 0.42 g | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC=C(C1)Br | C14H19BrN2O3
reactant | sodium carbonate | 2.0 M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-thienylboronic acid | 3.0 mmol, 0.38 g | S1C(=CC=C1)B(O)O | C4H5BO2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.034 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-(2-thienyl)pyridine | 0.24 g, 57% | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC=C(C1)C=1SC=CC1 | C18H22N2O3S
